US07902375B2
Step 2: 2-(3-Methyl-[1,2,4]thiadiazol-5-yl)-ethylamine
Hydroxylamine-O-sulfonic acid (0.68 g, 6.0 mmol) in methanol (5 ml) is added to a stirred solution of [2-(1-Dimethylamino-ethylidenethiocarbamoyl)-ethyl]-carbamic acid tert-butyl ester (1.43 g, 5.0 mmol) and pyridine (0.83 ml, 10 mmol) in ethanol (25 ml). After stirring the reaction for 18 hours at room temperature the solvent is removed in vacuo and the residue is partitioned between water and DCM. The organic extract is separated, dried (MgSO4), and the solvent is removed to give a colourless oil which is dissolved in ethanol (20 ml). Aqueous HCl (2M, 10 ml) is added and the mixture is heated at reflux for 1 hour. After cooling to room temperature the solvent is removed. The product is dissolved in aqueous NaHCO3 and the free base is extracted with ethyl acetate. The organic extract is dried (MgSO4) and the solvent removed to give the titled compound.

reactant | Hydroxylamine-O-sulfonic acid | 6.0 mmol, 0.68 g | NOS(=O)(=O)O | H3NO4S
reactant | [2-(1-Dimethylamino-ethylidenethiocarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 5.0 mmol, 1.43 g | C(C)(C)(C)OC(NCCC(N=C(C)N(C)C)=S)=O | C12H23N3O2S
reactant | pyridine | 10 mmol, 0.83 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 2M, 10 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(3-Methyl-[1,2,4]thiadiazol-5-yl)-ethylamine | CC1=NSC(=N1)CCN | C5H9N3S
